US07348359B2
To a mixture of 91 mg (0.078 mmol, 5%) of Pd(PPh3)4 and 252 mg (1.26 mmol) of 5-bromo salicylaldehyde in 10 mL of dry toluene was added 685 mmol (2.5 mmol, 2 equivalents) of 2-methoxymethoxy-3-tert-butyl-5-ethyl phenylboronic acid diluted in 5 mL of ethanol followed by 1.3 mL of a 2N aqueous solution of Na2CO3. The mixture was stirred at reflux for 3 hours and after cooling extracted with ethyl acetate. The organic layer was dried over MgSO4 and evaporated under reduced pressure. The residual oil was purified over silica gel (eluent: ethyl acetate/hexane: 10/90) to give 333 mg (0.969 mmol, yield: 77%) of 2-hydroxy-5-(5-ethyl-3-tert-butyl-2-methoxymethoxyphenyl)-benzaldehyde a pale brownb oil. 1H NMR (CDCl3), δ: 11.04 (s, 1H), 9.95 (s, 1H), 7.75 (dd, J=8.9, 2.1 Hz, 1H), 7.74 (d, J=2.1 Hz, 1H), 7.19 (d, J=2.1 Hz, 1H), 7.06 (d, J=8.9 Hz, 1H), 6.98 (d, J=1.9 Hz, 1H), 4.52 (s, 2H), 3.29 (s, 3H), 2.64 (dd, J=15.2, 7.6 Hz, 2H), 1.47 (s, 9H), 1.26 (t, J=7.4 Hz, 3H).

reactant | 5-bromo salicylaldehyde | 1.26 mmol, 252 mg | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | 2-methoxymethoxy-3-tert-butyl-5-ethyl phenylboronic acid | 685 mmol, 2 equivalents | COCOC1=C(C=C(C=C1C(C)(C)C)CC)B(O)O | C14H23BO4
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd(PPh3)4 | 0.078 mmol, 91 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-hydroxy-5-(5-ethyl-3-tert-butyl-2-methoxymethoxyphenyl)-benzaldehyde | 0.969 mmol, 333 mg, yield: 77% | OC1=C(C=O)C=C(C=C1)C1=C(C(=CC(=C1)CC)C(C)(C)C)OCOC | C21H26O4
